US05589492
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylthio)propanoic Acid
The title compound, mp 144°-7° C. (dichloromethane-hexane), was prepared from methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylthio)propanoate by a procedure similar to that described for Example 21.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylthio)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)SC2=CC=CC=C2 | C26H26N2O4S
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylthio)propanoic Acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)SC2=CC=CC=C2 | C25H24N2O4S
